US04013801
A. Preparation of the acetophenone
To a solution of 1.68g of phloroacetophenone and 12.7 g of benzyl chloride in 20 ml of DMF is added 5.53 g of anhydrous K2CO3. The mixture is stirred for 16 hours at 65° under argon. The mixture is diluted with 100 ml of 5% NaCl and extracted with ethyl acetate (2 × 50 ml). The extracts are washed with 5% NaCl and 2% NaOH, dried over MgSO4 and concentrated to a red oil which is purified on a dry 250 g silica gel columning CCl4 as eluent. This yields 2,4,6-tribenzyloxyacetophenone as a yellow oil.

reactant | phloroacetophenone | 1.68g | CC(=O)C1=C(C=C(C=C1O)O)O | C8H8O4
reactant | benzyl chloride | 12.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 5.53 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | NaCl | 100 ml | [Na+].[Cl-]
product | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
